US06172085B2
N-[2,3-dihydro-2,4,6,7-tetramethyl-2-[(4-phenyl-1-piperidinyl)methyl]benzofuran-5-yl]acetamide
To a suspension of 2,3-dihydro-2,4,6,7-tetramethyl-2-[(4-phenyl-1-piperidinyl)methyl]-5-benzofuranamine dihydrochloride (1.3 g) in tetrahydrofuran (10 mL) was added a solution of sodium carbonate (0.95 g) in water (5 mL) with ice-cooling and the mixture was stirred for 5 minutes. Then, 0.26 mL of acetyl chloride was added dropwise and the mixture was stirred at room temperature for 15 minutes. This reaction mixture was diluted with water and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate/diisopropyl ether to provide 1.1 g of the title compound. Yield 90%.

reactant | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(4-phenyl-1-piperidinyl)methyl]-5-benzofuranamine dihydrochloride | 1.3 g | Cl.Cl.CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCC(CC2)C2=CC=CC=C2
reactant | sodium carbonate | 0.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetyl chloride | 0.26 mL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | N-[2,3-dihydro-2,4,6,7-tetramethyl-2-[(4-phenyl-1-piperidinyl)methyl]benzofuran-5-yl]acetamide | 1.1 g, Yield 90% | CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(C)=O)C)CN2CCC(CC2)C2=CC=CC=C2 | C26H34N2O2
